US08389513B2
1-Methyl-1H-pyrazole-3-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-1) and 1-methyl-1H-pyrazole-3-carboxylic acid following procedure I yielded the title compound as a white solid. MS (ISP): m/z=368.1 [M+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OCC1(F)F)N)C)F | C11H12F3N3O
reactant | 1-methyl-1H-pyrazole-3-carboxylic acid | CN1N=C(C=C1)C(=O)O | C5H6N2O2
product | 1-Methyl-1H-pyrazole-3-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OCC([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NN(C=C1)C)(F)F | C16H16F3N5O2
